US05244898
To tetrahydrofuran (200 ml) is added sodium hydride (60%, 0.85 g), and thereto is added dropwise ethyl diethylphosphonoacetate (4.68 ml) with stirring under ice-cooling, and the mixture is further stirred under ice-cooling for 10 minutes. To the reaction mixture is added 5-oxo-7-chloro-1-[2-methyl-4-(2-methylbenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine (2.10 g), and the mixture is stirred at room temperature for 6 hours. The reaction solution is poured into ice-water (200 ml), and extracted with ethyl acetate (300 ml). The extract is washed with brine (300 ml), dried over magnesium sulfate, and the solvent is distilled off. The resulting residue is purified by silica gel column chromatography (eluent; ethyl acetate: n-hexane=1:2) to give 5-ethoxycarbonylmethylidene-7-chloro-1-[2-methyl-4-(2-methylbenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine (2.22 g) in the form of a mixture of the E-type compound and the Z-type compound thereof, as colorless amorphous.

reactant | sodium hydride | 0.85 g | [H-].[Na+]
reactant | ethyl diethylphosphonoacetate | 4.68 ml | C(C)OP(=O)(OCC)CC(=O)OCC | C8H17O5P
reactant | 5-oxo-7-chloro-1-[2-methyl-4-(2-methylbenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 2.10 g | O=C1CCCN(C2=C1C=C(C=C2)Cl)C(C2=C(C=C(C=C2)NC(C2=C(C=CC=C2)C)=O)C)=O | C26H23ClN2O3
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 5-ethoxycarbonylmethylidene-7-chloro-1-[2-methyl-4-(2-methylbenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 2.22 g | C(C)OC(=O)C=C1CCCN(C2=C1C=C(C=C2)Cl)C(C2=C(C=C(C=C2)NC(C2=C(C=CC=C2)C)=O)C)=O | C30H29ClN2O4
